### PR TITLE
[Merged by Bors] - feat(Order): limit elements in well-ordered types

### PR DESCRIPTION
**Pull request by joelriou**
This PR introduces two main definitions:
- `wellOrderSucc a`: the successor of an element `a` in a well-ordered type
- the typeclass `IsWellOrderLimitElement a` which asserts that an element `a` (in a well-ordered type) is neither a successor nor the smallest element, i.e. `a` is a limit element

Then, the lemma `eq_bot_or_eq_succ_or_isWellOrderLimitElement` shows that an element in a well-ordered type is either `⊥`, a successor, or a limit element.

---

These definitions are important in my formalization of the small object argument in category theory as it involves constructions of functors by transfinite induction.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/IsWellOrderLimitElement.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+in a well-ordered type is either `⊥`, a successor, or a limit element.
+
+-/
+
+variable {α : Type*} [LinearOrder α] [IsWellOrder α (· < ·)]
+
+/-- Given an element `a : α` in a well ordered set, this is the successor of `a`,
+i.e. the smallest element stricly greater than `a` if it exists (or `a` itself otherwise). -/
+noncomputable def wellOrderSucc (a : α) : α :=
+  (@IsWellFounded.wf α (· < ·)).succ a
```
Comment (kbuzzard) [inline Mathlib/Order/IsWellOrderLimitElement.lean:27]:
```suggestion
  (IsWellFounded.wf (r := (· < ·))).succ a
```
Is it a good idea to avoid `@` if we can? Somehow I always think of `@` as a code smell.

File: Mathlib/Order/IsWellOrderLimitElement.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+
+lemma wellOrderSucc_le {a b : α} (ha : a < b) : wellOrderSucc a ≤ b := by
+  dsimp [wellOrderSucc, WellFounded.succ]
+  rw [dif_pos ⟨_, ha⟩]
+  exact WellFounded.min_le _ ha
+
+lemma self_lt_wellOrderSucc {a b : α} (h : a < b) : a < wellOrderSucc a := by
+  dsimp [wellOrderSucc, WellFounded.succ]
+  rw [dif_pos ⟨b, h⟩]
+  apply WellFounded.min_mem
```
Comment (kbuzzard) [inline Mathlib/Order/IsWellOrderLimitElement.lean:43]:
```suggestion
lemma self_lt_wellOrderSucc {a b : α} (h : a < b) : a < wellOrderSucc a :=
  IsWellFounded.wf.lt_succ ⟨b, h⟩
```
I learnt the existence of this lemma from the lemma you proved ten lines earlier :-)

File: Mathlib/Order/IsWellOrderLimitElement.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+
+lemma IsWellOrderLimitElement.neq_bot [OrderBot α] : a ≠ ⊥ := by
+  rintro rfl
+  obtain ⟨b, hb⟩ := ha.not_bot
+  simp at hb
+
+lemma IsWellOrderLimitElement.bot_lt [OrderBot α] : ⊥ < a := by
+  obtain h|h := eq_or_lt_of_le (@bot_le _ _ _ a)
+  · exfalso
+    exact IsWellOrderLimitElement.neq_bot a h.symm
```
Comment (kbuzzard) [inline Mathlib/Order/IsWellOrderLimitElement.lean:65]:
```suggestion
  · exact (IsWellOrderLimitElement.neq_bot a h.symm).elim
```
if you're interested in golfing

File: Mathlib/Order/IsWellOrderLimitElement.lean [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+  · exact h
+
+variable {a b}
```
Comment (kbuzzard) [inline Mathlib/Order/IsWellOrderLimitElement.lean:68]:
```suggestion
variable {a}
```
I was very surprised to find that if you have initialised `a` but not `b`, then `variable {a b}` creates `b : ?m.13006`.

File: Mathlib/Order/IsWellOrderLimitElement.lean [hunk 5]
```diff
@@ -0,0 +1,104 @@
...
+    · refine Or.inr (Or.inr (IsWellOrderLimitElement.mk ?_ ?_))
+      · obtain h₃|h₃ := eq_or_lt_of_le (bot_le : ⊥ ≤ a)
+        · exfalso
+          exact h₁ h₃.symm
+        · exact ⟨⊥, h₃⟩
+      · intro b hb
+        obtain h₃|h₃ := eq_or_lt_of_le (wellOrderSucc_le hb)
+        · exfalso
+          exact h₂ ⟨b, h₃.symm, hb⟩
+        · exact ⟨wellOrderSucc b, self_lt_wellOrderSucc hb, h₃⟩
```
Comment (kbuzzard) [inline Mathlib/Order/IsWellOrderLimitElement.lean:90]:
```suggestion
lemma eq_bot_or_eq_succ_or_isWellOrderLimitElement [OrderBot α] (a : α) :
    a = ⊥ ∨ (∃ b, a = wellOrderSucc b ∧ b < a) ∨ IsWellOrderLimitElement a := by
  refine or_iff_not_imp_left.2 <| fun h₁ ↦ or_iff_not_imp_left.2 <| fun h₂ ↦ ?_
  refine (IsWellOrderLimitElement.mk ⟨⊥, Ne.bot_lt h₁⟩ fun b hb ↦ ?_)
  obtain rfl | h₃ := eq_or_lt_of_le (wellOrderSucc_le hb)
  · exact (h₂ ⟨b, rfl, hb⟩).elim
  · exact ⟨wellOrderSucc b, self_lt_wellOrderSucc hb, h₃⟩
```

**Review by kbuzzard — APPROVED** [review]
This looks fine to me.

File: Mathlib/Order/IsWellOrderLimitElement.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/Order/IsWellOrderLimitElement.lean:27]: Yes, I completely agree!

File: Mathlib/Order/IsWellOrderLimitElement.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Order/IsWellOrderLimitElement.lean:43]: Thanks!

File: Mathlib/Order/IsWellOrderLimitElement.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/Order/IsWellOrderLimitElement.lean:68]: Yes, this is a weird behaviour. Thanks for spotting this!

**Comment by joelriou** [comment]
Thanks @kbuzzard for the review!

**Review by kbuzzard — COMMENTED** [review]
Thanks a lot!

bors merge

**Comment by alreadydone** [comment]
I found this PR from #12211. I think instead of building a separate IsWellOrderLimitElement API, we should make [SuccOrder.ofLinearWellFoundedLT](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/SuccPred/Basic.html#SuccOrder.ofLinearWellFoundedLT) locally an instance to equip the well order with a SuccOrder structure and use `SuccOrder.succ` and [Order.IsSuccLimit](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/SuccPred/Limit.html#Order.IsSuccLimit). This is the approach taken in my #9480.

**Comment by vihdzp** [comment]
The instances `LinearOrder α` and `IsWellOrder α (· < ·)`, together with the trivial addition `Nonempty α`, already imply `ConditionallyCompleteLinearOrderBot α` via [`IsWellOrder.conditionallyCompleteLinearOrderBot`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/ConditionallyCompleteLattice/Basic.html#IsWellOrder.conditionallyCompleteLinearOrderBot). In turn, a `SuccOrder α` instance can always be defined for this type (though we don't seem to have the general instance yet).

I agree with @alreadydone that [`Order.IsSuccLimit`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/SuccPred/Limit.html#Order.IsSuccLimit) is the correct notion. In my opinion, this PR should be reverted altogether.
